USRE038970E1
N-(1-octyl-5-carboxymethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide
N-(1-octyl-5-ethoxycarboxymethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide (3.5 g) was dissolved in EtOH (50 ml) and a solution of NaOH (1.6 g) in water (20 ml) was added, which was followed by stirring at 60° C. for 1 hr. EtOH was evaporated under reduced pressure. The residue was dissolved in water (20 ml) and the mixture was washed with AcOEt (20 ml). The aqueous layer was neutralized with 2N-hydrochloric acid and extracted with AcOEt (50 ml). The AcOEt layer was washed with saturated brine and dried over anhydrous sodium sulfate. AcOEt was evaporated under reduced pressure to give 2.4 g of the title compound.

reactant | N-(1-octyl-5-ethoxycarboxymethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide | 3.5 g | C(CCCCCCC)N1C(CC2=C(C(=C(C(=C12)NC(C(C)(C)C)=O)C)OCC)C)CC(=O)O | C27H44N2O4
reactant | NaOH | 1.6 g | [OH-].[Na+]
reactant | EtOH | 50 ml | CCO | C2H6O
solvent | water | 20 ml | O | H2O
product | N-(1-octyl-5-carboxymethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide | 2.4 g | C(CCCCCCC)N1CCC2=C(C(=C(C(=C12)NC(C(C)(C)C)=O)C)CC(=O)O)C | C25H40N2O3
